US09079853B2
3-(2-(1H-indol-3-yl)-2-oxoethyl)-3-hydroxy-1-isopentylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 1-isopentylindoline-2,3-dione and commercially available 1-(1H-indol-3-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 9.41 (bs, 1H), 8.33 (s, 1H), 7.82 (m, 1H), 7.66 (d, 1H), 7.47 (d, 1H), 7.25 (m, 3H), 7.00 (t, 1H), 6.84 (d, 1H), 5.89 (bs, 1H), 3.71 (t, 2H), 3.49 (d, 1H), 3.21 (d, 1H), 1.62 (m, 2H), 1.54 (m, 1H), 0.94 (dd, 6H).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 1-isopentylindoline-2,3-dione | C(CC(C)C)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1-(1H-indol-3-yl)ethanone | N1C=C(C2=CC=CC=C12)C(C)=O | C10H9NO
product | 3-(2-(1H-indol-3-yl)-2-oxoethyl)-3-hydroxy-1-isopentylindolin-2-one | N1C=C(C2=CC=CC=C12)C(CC1(C(N(C2=CC=CC=C12)CCC(C)C)=O)O)=O | C23H24N2O3
